US07687522B2
3-benzyl-5-(3-fluoro-4-methoxyphenyl)-2-(4-fluorophenylamino)pyrimidin-4(3H)-one (563.4 mg, 1.343 mmol) was suspended in DCM (12 ml) and cooled in an ice water bath. Then, BBr3 (1.0 M in DCM, 2.2 ml, 2.2 mmol) was added, and the reaction was stirred at 0 C. After 50 minutes, more BBr3 added (2.5 ml, 2.5 mmol) and stirring was continued at room temperature. After 35 minutes, the reaction was cooled to 0 C and quenched with NaOH (5 N, 2.0 ml). The pH of the solution was adjusted with 5 N HCl and saturated sodium bicarbonate to around 7, and the suspension was allowed to stand at room temperature. The suspension was then treated with 1:1 DCM/MeOH and filtered. The solid was washed with this solution and the filtrate was concentrated, treated with EtOAc, and filtered again. The solid was again washed with DCM and MeOH and filtered, and the filtrate was concentrated. This last washing and filtration sequence was repeated a few more times to remove sodium salts (NaCl; NaBr). Finally, the filtrate was concentrated and dried in vacuo to afford the desired 3-benzyl-5-(3-fluoro-4-hydroxyphenyl)-2-(4-fluorophenylamino)pyrimidin-4(3H)-one, which was taken to the next step. MS (ESI pos. ion) m/z: 406 (MH+). Calc'd exact mass for C23H17F2N3O2: 405.

reactant | 3-benzyl-5-(3-fluoro-4-methoxyphenyl)-2-(4-fluorophenylamino)pyrimidin-4(3H)-one | 1.343 mmol, 563.4 mg | C(C1=CC=CC=C1)N1C(=NC=C(C1=O)C1=CC(=C(C=C1)OC)F)NC1=CC=C(C=C1)F | C24H19F2N3O2
reactant | BBr3 | 2.2 mmol, 1.0 M, 2.2 ml | B(Br)(Br)Br | BBr3
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
product | 3-benzyl-5-(3-fluoro-4-hydroxyphenyl)-2-(4-fluorophenylamino)pyrimidin-4(3H)-one | C(C1=CC=CC=C1)N1C(=NC=C(C1=O)C1=CC(=C(C=C1)O)F)NC1=CC=C(C=C1)F | C23H17F2N3O2
